US20010007665A1
A HES stock solution was prepared by dissolving 25.0 g of HES in 200 ml of ultrapure water. A terbutaline stock solution was prepared by dissolving 1250 mg of terbutaline sulphate in 200 ml of ultrapure water.

reactant | terbutaline sulphate | 1250 mg | CC(C)(C)[NH2+]CC(C1=CC(=CC(=C1)O)O)O.CC(C)(C)[NH2+]CC(C1=CC(=CC(=C1)O)O)O.[O-]S(=O)(=O)[O-]
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | terbutaline | CC(C)(C)NCC(C=1C=C(C=C(C1)O)O)O | C12H19NO3
